US07557212B2
Step 1: 3-[(4-bromophenoxy)methyl]-pyridine
A mixture of 12.75 g (77.73 mmol) of 3-chloromethyl)pyridine hydrochloride, 13.45 g (77.73 mmol) of 4-bromophenol and 27.6 g (200 mmol) of potassium carbonate in 100 ml of methyl ethyl ketone is stirred at room temperature for 24 hr and at 60° C. for 4 hr. The solids are filtered and the filtrate is concentrated. The residue is partitioned between water and diethyl ether. The ethereal layer is washed with 2N NaOH and water, and is dried and concentrated. The resulting oil (12.9 g, 49% yield) solidifies on cooling.

reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
reactant | 4-bromophenol | 77.73 mmol, 13.45 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | potassium carbonate | 200 mmol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 3-[(4-bromophenoxy)methyl]-pyridine | 12.9 g, 49% yield | BrC1=CC=C(OCC=2C=NC=CC2)C=C1 | C12H10BrNO
